US07544672B2
4-chloro-5-(5-(4-ethylpiperazin-1-yl)pent-1-ynyl)-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine
Sonogashira coupling of 4-chloro-5-iodo-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine with 1-ethyl-4-(pent-4-ynyl)piperazine, according to the general procedure A gave the title compound, as a solid. Mp=142.3-144.1° C. HPLC Rt=4.11 min.

reactant | 4-chloro-5-iodo-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | ClC=1C2=C(N=C(N1)N)N(C=C2I)CC2=NC=C(C(=C2C)OC)C | C15H15ClIN5O
reactant | 1-ethyl-4-(pent-4-ynyl)piperazine | C(C)N1CCN(CC1)CCCC#C | C11H20N2
product | 4-chloro-5-(5-(4-ethylpiperazin-1-yl)pent-1-ynyl)-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | ClC=1C2=C(N=C(N1)N)N(C=C2C#CCCCN2CCN(CC2)CC)CC2=NC=C(C(=C2C)OC)C | C26H34ClN7O
